US04666936
Preparation of 2-(p-aminobenzyl)-butyric acid ethyl ester
28 g of 2-(p-nitrobenzyl)-butyric acid ethyl ester are dissolved in 200 ml ethyl acetate. The solution is added with 1 g of 10% Pd/C and hydrogenated in a Parr apparatus until complete absorption of hydrogen. After filtering and evaporation from solvent about 25 g of product are obtained as a sufficiently pure oil for the successive reactions.

reactant | 2-(p-nitrobenzyl)-butyric acid ethyl ester | 28 g | C(C)OC(C(CC)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C13H17NO4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 1 g | [Pd] | Pd
product | 2-(p-aminobenzyl)-butyric acid ethyl ester | C(C)OC(C(CC)CC1=CC=C(C=C1)N)=O | C13H19NO2
